US08022062B2
4-(Cyclohexyl-hydroxy-methyl)-benzonitrile:
Dissolve 4-formyl-benzonitrile (5 g, 38.1 mmol) in anhydrous toluene (50 mL). Add chlorodicyclohexylborane (39 mL, 39 mmol, 1M solution in hexane) and 2,6-lutidine (4.25 mL, 39 mmol) and stir the mixture overnight at room temperature. Cool to 0° C., add aqueous hydrogen peroxide (5.4 mL, 48 mmol, 30%) and 3M aqueous NaOH (16 mL, 48 mmol) and stir for 15 min. Add EtOAc and extract the aqueous phase with EtOAc. Wash the combined organic extracts with water and brine. Dry the organic solution over Na2SO4, filter and concentrate in vacuo. Purify the crude mixture by chromatography on silica gel (45 g RediSep column) eluting with hexane/EtOAc (1:0 to 1:1 gradient over 60 min; 80 mL/min) to provide the desired intermediate as a clear oil (2.3 g, 23%). MS (APCI) z/z: 197 (M-H2O)+.

reactant | 4-formyl-benzonitrile | 38.1 mmol, 5 g | C(=O)C1=CC=C(C#N)C=C1 | C8H5NO
reactant | chlorodicyclohexylborane | 39 mmol, 1M, 39 mL | ClB(C1CCCCC1)C1CCCCC1 | C12H22BCl
reactant | 2,6-lutidine | 39 mmol, 4.25 mL | N1=C(C=CC=C1C)C | C7H9N
reactant | hydrogen peroxide | 48 mmol, 5.4 mL | OO | H2O2
reactant | NaOH | 48 mmol, 3M, 16 mL | [OH-].[Na+]
solvent | toluene | 50 mL | C1(=CC=CC=C1)C | C7H8
product | 4-(Cyclohexyl-hydroxy-methyl)-benzonitrile | 2.3 g, 23% | C1(CCCCC1)C(C1=CC=C(C#N)C=C1)O | C14H17NO
